US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 98 mg (0.55 mmol) of 4-morpholin-4-yl-aniline. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in methanol, 57 mg (25%) of 8-(4-morpholin-4-yl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a gray solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-morpholin-4-yl-aniline | 0.55 mmol, 98 mg | N1(CCOCC1)C1=CC=C(N)C=C1 | C10H14N2O
product | 8-(4-morpholin-4-yl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 57 mg, 25% | N1(CCOCC1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C21H20N4O4S.C3H6O2/c26-21-20-17(7-8-22-20)18-13-16(5-6-19(18)23-21)30(27,28)24-14-1-3-15(4-2-14)25-9-11-29-12-10-25;1-2-3(4)5/h1-8,13,22,24H,9-12H2,(H,23,26);2H2,1H3,(H,4,5)/p-1
